US04622332
Decyl ethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate
A solution of 263 g (1 mol) of ethyl 2-(3-nitrobenzylidene)acetoacetate and 241 g (1 mol) of decyl 3-aminocrotonate in 2.4 liters of absolute ethanol was heated to boiling under nitrogen for 18 hours. The mixture was then filtered hot and the filtrate was evaporated in vacuo to about one half of the volume. The concentrated solution was cooled in ice, producing a thick mass of crystals. This was filtered off with suction, recrystallized from ethanol and, after washing with 0.5 liters of n-hexane, was dried in a vacuum oven at 60° C.

reactant | ethyl 2-(3-nitrobenzylidene)acetoacetate | 1 mol, 263 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCC)C(=O)C)C=CC1 | C13H13NO5
reactant | decyl 3-aminocrotonate | 1 mol, 241 g | N\C(=C/C(=O)OCCCCCCCCCC)\C | C14H27NO2
solvent | ethanol | 2.4 liters | C(C)O | C2H6O
product | Decyl ethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCCCCCCCCCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C27H38N2O6
